US04201702
About 1 part by weight of fine granular magnesium silicate, 2 parts by weight of allyl chloride and 1 part by weight of methacrylic acid are mixed then heated to just below the boiling temperature of allyl chloride while agitating for about 1 hour, thereby producing a soft, sticky, poly (allyl chloride methacrylic acid) copolymer. About 0.25 parts by weight of the chlorosilicon acids as produced in Example IV are added then agitated for about 1 hour. The chemical reaction is complete in 1 to 12 hours, thereby producing a solid poly (allyl chloride methacrylic acid) copolymer.

reactant | magnesium silicate | [Si]([O-])([O-])([O-])[O-].[Mg+2].[Mg+2]
reactant | allyl chloride | C(C=C)Cl | C3H5Cl
reactant | methacrylic acid | C(C(=C)C)(=O)O | C4H6O2
product | allyl chloride methacrylic acid | C(C(=C)C)(=O)O.C(C=C)Cl | InChI=1S/C4H6O2.C3H5Cl/c1-3(2)4(5)6;1-2-3-4/h1H2,2H3,(H,5,6);2H,1,3H2
